US04959362
To a solution of 2-O-octadecyl-L-ascorbic acid (0.8 g, 2 mmole) in chloroform (20 ml) was added pyridine (1 ml), followed by adding dropwise benzoyl chloride (0.28 g, 2 mmole) at room temperature. The reaction mixture was stirred for one hour, to which was added 2N hydrochloric acid to acidify it. The organic layer was washed with water and dried (over magnesium sulfate). The solvent was evaporated off, and the product was recrystallized from isopropyl ether-ethyl acetate to give 3-O-benzoyl-2-O-octadecyl-L-ascorbic acid (0.6 g, 49%), m.p. 68°-69° C. C3H48O7 (Found: C,69.94; H,8.98%. Anal. Calcd: C,69.89; H,9.08)

reactant | 2-O-octadecyl-L-ascorbic acid | 2 mmole, 0.8 g | C(CCCCCCCCCCCCCCCCC)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO | C24H44O6
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 2 mmole, 0.28 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-O-benzoyl-2-O-octadecyl-L-ascorbic acid | 0.6 g, 49% | C(C1=CC=CC=C1)(=O)OC1=C(C(=O)O[C@@H]1[C@@H](O)CO)OCCCCCCCCCCCCCCCCCC | C31H48O7
